* C:\!!Product Design\Cornverter\Hardware\Spice Sims\Voct Outputs\Voct Outputs.asc
XU1 Vin N002 N004 N006 N005 TL07X
V1 Vin 0 SINE(2.048 2.048 10 0)
V2 N004 0 {VPos}
V3 N006 0 {VNeg}
R1 Vout N005 1K
R2 N003 Vout 100K
R5 N001 0 105K
R§POT1B N002 N003 {Pot1b}
R§POT1A N001 N002 {Pot1a}
XU2 Vout N008 N010 N007 N008 TL07X
V4 N007 0 {VNeg}
V5 N010 0 {VPos}
D1 N009 0 NSPW500BS
R3 N009 N008 1k
.model D D
.lib C:\Users\George\Documents\LTspiceXVII\lib\cmp\standard.dio
.lib Opamps_Comparators_ST.lib
.param Pot1R=10K Pot1Val=50
.param Pot1a=Pot1R * (1 - (Pot1Val / 100) + 0.0000001) Pot1b=Pot1R *( (Pot1Val / 100) + 0.0000001)
.tran 0 0.5 0 0.0001
.param VPos=12 VNeg=-VPos
.step param Pot1Val 0 100 20
* This circuit boosts 4.096V from the DAC to 8V.
* This allows 1200*(8/4096) = 2.34 Cents of resolution when using the DAC's 4.096V Output for a range of 8 Octaves\nThis allows 1200*(4/4096) = 1.17 Cents of resolution when using the DAC's 2.048V Output for a range of 4 Octaves
* Using the trimpot the voltage can be adjusted from aprox 7.65V to 8.35V with 4.096V input
* This LED Circuit is non optimal due to the forward voltage of the LED however its what is easily implementable and\nit is just as a visual thing it doesnt need to be perfect
.backanno
.end
